US05330989
A mixture of 2.56 g (11.2 mmol) of 2-(4'-aminomethylphenyl)nitrobenzene, 2.88 g (12.2 mmol) of 4-chloro-5,6,7,8-tetrahydro-2-trifluoromethylquinazoline, and 8.0 g (58 mmol) of potassium carbonate in DMF was stirred at 100° C. overnight. The reaction mixture was quenched with water and extracted intomethylene chloride/tetrahydrofuran. The organic phase was washed with brine, dried over potassium carbonate, and purified by flash chromatography (elutions of ether/petroleum ether (1:2, then 1:1), then 10% ether/methylene chloride) to give 3.86 g (81%) of 5,6,7,8-tetrahydro-N-[(2'-nitro[1,1'-biphenyl]-4-yl)methyl]-2-(trifluoromethyl)-4-quinazolinamine, mp 150°-151° C.

reactant | 2-(4'-aminomethylphenyl)nitrobenzene | 11.2 mmol, 2.56 g | NCC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C13H12N2O2
reactant | 4-chloro-5,6,7,8-tetrahydro-2-trifluoromethylquinazoline | 12.2 mmol, 2.88 g | ClC1=NC(=NC=2CCCCC12)C(F)(F)F | C9H8ClF3N2
reactant | potassium carbonate | 58 mmol, 8.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 5,6,7,8-tetrahydro-N-[(2'-nitro[1,1'-biphenyl]-4-yl)methyl]-2-(trifluoromethyl)-4-quinazolinamine | 3.86 g, 81% | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)CNC1=NC(=NC=2CCCCC12)C(F)(F)F | C22H19F3N4O2
